US05998433
b) Synthesis of N,N-dimethyl-[5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.190 g (0.483 mmol) of 5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.065 ml (0.72 mmol) of 50% aqueous dimethylamine and 0.059 ml (0.72 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 60 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform/methanol=50/1 to 25/1) to yield the desired product.

reactant | 5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.483 mmol, 0.190 g | O=C1C2=CC=CC=C2S(C=2C=C(C=CC12)C(=O)N1CC2=C(CC1)OC=C2)(=O)=O | C21H15NO5S
reactant | dimethylamine | 0.72 mmol, 0.065 ml | CNC | C2H7N
reactant | formaldehyde | 0.72 mmol, 0.059 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C24H22N2O5S
